* source PSPICE_BUCK
V_V1         V1 0 20Vdc
R_R1         N00521 N00525  162k TC=0,0 
R_R2         0 N00521  22.1k TC=0,0 
C_C5         0 N00525  47u  TC=0,0 
C_C6         0 V1  100n  TC=0,0 
C_C7         0 V1  1u  TC=0,0 
C_C8         0 V1  1u  TC=0,0 
C_C9         0 V1  1u  TC=0,0 
C_C10         N00437 N00441  100n  TC=0,0 
L_L2         N00437 N00525  10uH  
X_U2         N00441 V1 N00521 0 N00437 V1 LMR51420X_TRANS PARAMS: MODE=0
