* C:\Users\dylan\Documents\GitHub\Black_Body\simulation\LTspice_Current_source_complex\Current_source_precise.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N001 N003 N002 LM334 ;§pnba v+)v-)R
X§U3 N007 N005 N001 N008 N005 NC_01 N006 LT1008 ;§pnba In+)In-)V+)V-)OUT)COMP1)COMP2
R1 N002 N003 2.7k
R2 N003 N004 226k
R3 N004 N005 1Meg tol=1 pwr=0.1
R4 N004 N007 100Meg
C1 N008 N006 200p
V1 N001 0 4V
V2 0 N008 4V
R5 N007 0 26000
X§U2 N003 N005 LT1004-1.2 ;§pnba VOUT)GND
* Load Resistor
.step temp 15 70
.op
* .dc V1 list 2.51V 2.5V
.lib LM334.sub
.lib LTC.lib
.lib LTC3.lib
.backanno
.end
