* source BLACK BODY SIM
R_R1         N00322 N00300  10 TC=0,0 
V_V1         N00264 0 25VDC

R_R2         N00264 N00300  0.02 TC=0,0 
X_U1         N00264 N00300 0 N02383 INA183A1
V_V2         N03570 0 DC 0 AC 0
+PULSE 0 5 1n 1n 1n 1m 10m
X_X1         N00322 N03570 0 CSD17527Q5A
